Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
auto
 
Major Surgical or Invasive Procedure:
CVC placement and removal prior to discharge

 
History of Present Illness:
Mr. ___ is a ___ year old man with MM who has  
enrolled to DF/HCC protocol ___: A Randomized, Phase III 
Study
Comparing Conventional Dose Treatment Using a Combination of
Lenalidomide, Bortezomib, and Dexamethasone (RVD) to High-Dose
Treatment with Peripheral Stem Cell Transplant in the Initial
Management of Myeloma in Patients up to ___ Years of Age,
randomized to Arm B (RVD + ASCT) who presents for autologous 
stem
cell transplant with mel prep regimen. Course thus far
complicated by nausea, diarrhea, generalized fatigue, and
esophagitis, symptoms improving with count recovery.
 
Past Medical History:
-Sickle cell trait
-History of chickenpox in the childhood.
-Hyperlipidemia since ___. Patient was previously on Lipitor
which he stopped approximately ___ years ago.
-History of screening colonoscopy in ___ and ___ without any
unusual findings

Surgical History: denies 

ONCOLOGIC HISTORY:
___: Diagnosed with MGUS. Followed ___ x/year.
___: Monoclonal spike was seen. Patient also developed
mild anemia. BMBX obtained on ___ showed MATURE TRILINEAGE
HEMATOPOIESIS WITH EXTENSIVE INFILTRATION BY PLASMA CELL
MYELOMA (60-70% of marrow cellularity by CD135 stains). 

Protocol ___ Program:
___: RVD Cycle 1 (Lenalidomide 25 mg days ___ Bortezomib
1.3 mg/m2 IV days, 1, 4, 8, 11; Dexamethasone 20 mg PO days 1, 
2,4, 5, 8, 9, 11, 12)

___: RVD Cycle 2 (Lenalidomide 25 mg days ___ Bortezomib 
1.3mg/m2 IV days, 1, 4, 8; d/t poor venous access D11 Bortezomib
given subcut; Dexamethasone 20 mg PO days 1, 2, 4, 5, 8, 9, 11,
12)

___: RVD Cycle 3 (Lenalidomide 25 mg days ___ Bortezomib
1.3 mg/m2 SC days, 1, 4, 8, 11; Dexamethasone 20 mg PO days 1,
2,4, 5, 8, 9, 11, 12)
 
Social History:
___
Family History:
Father: alive. 
Mother: deceased ___ ___ abd ca, (?) colon, (?) ovary.
Patient is youngest of 7. 
1 child w/sickle cell. 
Other child in wheel chair: ptbi
 

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
GEN:  NAD
VS: T 97.9 BP 140/78 HR 73 RR 18 O2  100%
HEENT:  MMM, no OP lesions, no cervical, supraclavicular, or
axillary LAD
CV:  Regular, normal S1 and S2 no S3, S4, or murmurs
PULM:  Clear to auscultation bilaterally
ABD:  BS+, soft, non-tender, non-distended, no masses, no
hepatosplenomegaly
LIMBS:  No edema, no inguinal adenopathy
SKIN:  No rashes or skin breakdown
NEURO:  Grossly nonfocal, alert and oriented 

DISCHARGE PHYSICAL EXAM:
GEN: A & O x 3, NAD
VS: T 100.0 n 99.1 BP 110/70 HR 89 RR 18 O2 98%RA
I/O: 1100 on ___
HEENT: MMM, no cervical, supraclavicular, or axillary LAD. 
Unable
to visualize OP lesions
CV: Regular, normal S1 and S2 no S3, S4, or murmurs
PULM: Non-labored. Clear to auscultation bilaterally
ABD: BS+, soft, non-tender, non-distended, no masses, no
hepatosplenomegaly
LIMBS: No edema, no inguinal adenopathy
SKIN: No rashes or skin breakdown, oozing at line site
NEURO: Grossly non-focal, alert and oriented x 3
LINE: R CVC C/D/I. No signs of infection
 
Pertinent Results:
___ 12:00AM BLOOD WBC-8.2 RBC-2.92* Hgb-9.0* Hct-27.3* 
MCV-94 MCH-30.8 MCHC-33.0 RDW-15.6* RDWSD-52.9* Plt ___
___ 09:50AM BLOOD WBC-1.8* RBC-3.61* Hgb-10.9* Hct-33.5* 
MCV-93 MCH-30.2 MCHC-32.5 RDW-15.8* RDWSD-52.3* Plt ___
___ 12:00AM BLOOD Neuts-45 Bands-2 Lymphs-17* Monos-27* 
Eos-1 Baso-0 Atyps-2* Metas-1* Myelos-4* Promyel-1* NRBC-1* 
AbsNeut-3.85 AbsLymp-1.56 AbsMono-2.21* AbsEos-0.08 
AbsBaso-0.00*
___ 09:50AM BLOOD Neuts-43.6 ___ Monos-24.7* 
Eos-0.5* Baso-1.6* Im ___ AbsNeut-0.79* AbsLymp-0.53* 
AbsMono-0.45 AbsEos-0.01* AbsBaso-0.03
___ 12:00AM BLOOD Glucose-98 UreaN-14 Creat-0.7 Na-140 
K-3.7 Cl-103 HCO3-25 AnGap-16
___ 09:50AM BLOOD UreaN-11 Creat-1.0 Na-139 K-4.8 Cl-102 
HCO3-30 AnGap-12
___ 12:00AM BLOOD ALT-24 AST-23 LD(___)-326* AlkPhos-80 
TotBili-0.1
___ 09:50AM BLOOD ALT-22 AST-23 LD(LDH)-201 AlkPhos-86 
TotBili-0.2
___ 12:00AM BLOOD TotProt-6.6 Albumin-3.4* Globuln-3.2 
Calcium-8.9 Phos-3.7 Mg-2.0 UricAcd-4.1
___ 09:50AM BLOOD TotProt-7.6 Albumin-4.3 Globuln-3.3 
Calcium-9.8 Phos-3.7 Mg-2.2 UricAcd-5.2
 
Brief Hospital Course:
Mr. ___ is a ___ year old man with MM who has
enrolled to ___ protocol ___ who presents for autologous
stem cell transplant with melphalan preparatory regimen.

D+16

#MM: s/p 3C of RVD on protocol ___ randomized to transplant
s/p HD Cytoxan mobilization. 
-Melphalan 180 mg IV Q24H on Days -3 and -2. ___ and
___ mg/m2) 
-tolerated stem cell infusion well with no acute issues
-infused ___ Total CD34/Kg=8.67e6 x 2 bags
-Antiemetics/IVF per protocol
-neupogen D+4 thru count recovery (started ___, d/c on ___
with count recovery
-f/u in clinic tomorrow or sooner if issues arise

#Pancytopenia: recovering, WBC and ANC normalized,  no longer
transfusion dependant 
-transfuse for hgb <7 and/or plt <10K
-cis as no longer neutropenic

#Nausea/Decreased appetite: improving with WBC recovery
-added zyprexa 2.5 BID, d/c today
-continue Zofran/Ativan prn
-continue to monitor closely

#Mucositis/Esophagitis: Resolved. throat pain better since
initiation of morphine pca and basal and improving with count
recovery. Changed oral meds to IV as much as possible.  Added
fluconazole ___ due to esophagitis although no visible thrush 
on
exam.
-d/c PCA on ___ oxy prn for further relief
-changed IV meds back to po on ___

#Diarrhea: resolved. C diff neg ___, continuous IVF and Imodium
prn 

#Dysuria: Resolved. Dysuria and frequency after stem cell
infusion, likely secondary to extreme auto diuresis post
infusion, r/o infection with u/a (neg) and u culture (neg)

#GERD: continue omeprazole while inhouse

#Line oozing: Resolved. hold lovenox with active bleeding,
consider thrombin if continues, ___ to examine patient.
-resumed lovenox as line oozing resolved but d/c'd ___ as plt
<50K

#Infectious prophylaxis:
- PCP: bactrim to begin D+21 or later if plt still remains <50K 
- HSV/VZV: acyclovir D-2
- Bacterial: cipro D-2,off at d/c
- Fungal: off fluc

Prophylaxes:
# Access: CVC removed prior to d/c
# FEN: low bacteria diet
# Pain control: oxycodone prn 
# Bowel regimen: prn
# Disposition: home
# Code status: Full
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO Q8H 
2. Omeprazole 20 mg PO DAILY 
3. Ondansetron 8 mg PO Q8H:PRN nausea 
4. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 

 
Discharge Medications:
1. Acyclovir 400 mg PO Q8H 
2. Omeprazole 20 mg PO DAILY 
3. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
hold this medication until the outpatient team tells you to 
restart 
4. Ondansetron 8 mg PO Q8H:PRN nausea 
5. Lorazepam 0.5-1 mg PO Q6H:PRN anxiety,nausea or vomiting if 
not relieved by ondansetron 
RX *lorazepam 0.5 mg ___ tabs by mouth every 6 hours as needed 
Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
myeloma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear  Mr. ___
You were admitted for an autologous stem cell transplant. 

You also developed mouth sores, nausea, diarrhea and loss of 
appetite while you were admitted. These are common side effects 
after transplant and your symptoms continue to improve.
Your nausea medications are as follows:
1 zofran
2 ativan

You will continue to take acyclovir to prevent infection. You 
will start to take Bactrim to prevent a certain type of 
pneumonia once your counts have fully recovered. Your outpatient 
provider ___ tell you when to start this. 

Please take your temperature twice a day, and call us if it goes 
above 100.4.  Please be sure to drink at least 2L (64oz) of 
fluid daily. Call if you are unable to do so, or if you have 
worsening nausea or watery stools.

It has been a pleasure taking care of you. 

 
Followup Instructions:
___